US03968231
7-Fluoro-4-(p-fluorophenyl)-2-methyl-1,2,3,4-tetrahydropyrrolo[3,4-b]indole (I: X and Z = F and R = CH3)
To a mixture of 244 mg. (6.4 m moles) of lithium aluminum hydride in 20 ml. of dry tetrahydrofuran under a nitrogen atmosphere and cooled to -10° C. is added 284 mg. (2.1 m moles) of aluminum chloride and the resulting reaction mixture allowed to stir for 30 min. 7-Fluoro-4-(p-fluorophenyl)-2-carbethoxy1,2,3,4-tetrahydropyrrolo[3,4-b]indole (2.9 m moles) in 10 ml. of the same solvent is added dropwise to the cold solution with stirring. After one hour, the reaction is quenched with 5 ml. of water added dropwise, and the mixture allowed to warm to room temperature. The mixture is filtered and the solids washed with hot tetrahydrofuran. The combined filtrate and washings are concentrated to a brown solid, which on dissolution in diethyl ether followed by treatment with ether saturated with hydrogen chloride provides 448 mg. of the desired product, m.p. 160°-165° C.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 7-Fluoro-4-(p-fluorophenyl)-2-carbethoxy1,2,3,4-tetrahydropyrrolo[3,4-b]indole | FC1=CC=2C3=C(N(C2C=C1)C1=CC=C(C=C1)F)CN(C3)C(=O)OCC | C19H16F2N2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-Fluoro-4-(p-fluorophenyl)-2-methyl-1,2,3,4-tetrahydropyrrolo[3,4-b]indole | FC1=CC=2C3=C(N(C2C=C1)C1=CC=C(C=C1)F)CN(C3)C | C17H14F2N2
